US09315458B2
B) rac-6-bromo-2-(trans-2-hydroxycyclohexyl)isoindolin-1-one
To a solution of methyl 5-bromo-2-(bromomethyl)benzoate (0.50 g) in DMF (5.00 mL) were added trans-2-aminocyclohexanol hydrochloride (0.37 g) and N-ethyldiisopropylamine (1.42 mL), and the mixture was stirred at 80° C. for 3 hr. To the reaction mixture was added 5% aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.22 g).

reactant | methyl 5-bromo-2-(bromomethyl)benzoate | 0.50 g | BrC=1C=CC(=C(C(=O)OC)C1)CBr | C9H8Br2O2
reactant | trans-2-aminocyclohexanol hydrochloride | 0.37 g | Cl.N[C@H]1[C@@H](CCCC1)O
reactant | N-ethyldiisopropylamine | 1.42 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 5.00 mL | CN(C)C=O | C3H7NO
product | rac-6-bromo-2-(trans-2-hydroxycyclohexyl)isoindolin-1-one | 0.22 g | BrC1=CC=C2CN(C(C2=C1)=O)[C@H]1[C@@H](CCCC1)O | C14H16BrNO2
